US08404740B2
4-Dimethylamino-4-(4-methoxy-butyl)-cyclohexanone (E-3)
[8-(4-Methoxy-butyl)-1,4-dioxa-spiro[4.5]dec-8-yl]-dimethyl-amine (C-3) (6.44 g, 23.7 mmol) was dissolved in water (9.3 ml); conc. HCl (14.6 ml) was added, and the mixture was stirred for 4 d at room temperature. The reaction mixture was washed with ether (2×50 ml). Then the solution was rendered alkaline with 5N NaOH and extracted with dichloromethane (3×50 ml). The combined organic phases were washed with water (50 ml), dried over Na2SO4 and filtered, and the solvent was removed in vacuo.

reactant | [8-(4-Methoxy-butyl)-1,4-dioxa-spiro[4.5]dec-8-yl]-dimethyl-amine | 23.7 mmol, 6.44 g | COCCCCC1(CCC2(OCCO2)CC1)N(C)C | C15H29NO3
reactant | HCl | 14.6 ml | Cl | ClH
solvent | water | 9.3 ml | O | H2O
product | 4-Dimethylamino-4-(4-methoxy-butyl)-cyclohexanone | CN(C1(CCC(CC1)=O)CCCCOC)C | C13H25NO2
